US09445594B2
Preparation of 1-(2-isopropylphenyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)thiourea (F45)
In a 100 mL flask, to a solution of (4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl) methanamine hydrochloride (0.200 g, 0.598 mmol) in dichloromethane (5 mL) was added triethylamine (0.0720 g, 0.718 mmol) and 1-isopropyl-2-isothiocyanatobenzene (0.106 g, 0.598 mmol) in dichloromethane (5 mL) and the reaction mixture was stirred overnight at room temperature. The reaction mixture was concentrated and the residue purified by flash column chromatography eluting with 10-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes as eluent to give the title compound as a white solid (0.145 g, 48%).

reactant | (4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl) methanamine hydrochloride | 0.598 mmol, 0.200 g | Cl.FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CN)(F)F
reactant | triethylamine | 0.718 mmol, 0.0720 g | C(C)N(CC)CC | C6H15N
reactant | 1-isopropyl-2-isothiocyanatobenzene | 0.598 mmol, 0.106 g | C(C)(C)C1=C(C=CC=C1)N=C=S | C10H11NS
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(2-isopropylphenyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)thiourea | 0.145 g, 48% | C(C)(C)C1=C(C=CC=C1)NC(=S)NCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C26H24F3N5OS
